US05922751
A mixture of 2-(3-hydroxy-4-methoxyphenyl)-imidazole-4-formamide (110 mg, 0.47 mmol), cyclopentyl bromide (60 μl, 0.56 mmol) and K2CO3 (162 mg, 1.2 mmol) in DMF (10 ml) were heated at 70° C. overnight. A further quantity of cyclopentyl bromide (60 μl, 0.56 mmol) and K2CO3 (162 mg, 1.2 mmol) were added and the reaction mixture was cooled to room temperature, diluted with water (50 ml), extracted with ethyl acetate (2×100 ml). The combined organics were washed with brine (30 ml) dried over Na2SO4 and the volatiles removed in vacuo. Flash chromatography (SiO2 ; CH2Cl2 :EtOH (9:1) (1% NH3)) afforded 2-(3-cyclopentyloxy-4-methoxyphenyl)-imidazole-4-formamide (43 mg,) as a white solid, mp d.>195° C.

reactant | 2-(3-hydroxy-4-methoxyphenyl)-imidazole-4-formamide | 0.47 mmol, 110 mg | OC=1C=C(C=CC1OC)C=1NC=C(N1)C(=O)N | C11H11N3O3
reactant | cyclopentyl bromide | 0.56 mmol, 60 μl | C1(CCCC1)Br | C5H9Br
reactant | K2CO3 | 1.2 mmol, 162 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | cyclopentyl bromide | 0.56 mmol, 60 μl | C1(CCCC1)Br | C5H9Br
reactant | K2CO3 | 1.2 mmol, 162 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | 50 ml | O | H2O
product | 2-(3-cyclopentyloxy-4-methoxyphenyl)-imidazole-4-formamide | 43 mg | C1(CCCC1)OC=1C=C(C=CC1OC)C=1NC=C(N1)C(=O)N | C16H19N3O3
